US05155113
Preparation of 5'-O-acetyl-3'-O-benzyl-3'-(3-carbomethoxybenzoyl)-2'-deoxy-5-fluorouridine
To a solution of 3.00 g of 5'-O-acetyl-3'-O-benzyl-2'-deoxy-5-fluorouridine in 100 ml of dry dioxane were added 2.40 g of isophthaloyl chloride and 8.5 ml of triethylamine, and the mixture was refluxed for 2 hours. Then, to the reaction mixture were added 5 ml of methanol and a suspension of 9.60 ml of triethylamine in 100 ml of dry dioxane, and the mixture was refluxed for 2 hours. The insolubles were removed by filtration and the filtrate was concentrated. The residue was dissolved in 100 ml of ethyl acetate, and the solution was washed twice with 30 ml of saturated aqueous solution of sodium chloride. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The residue was placed on a silica gel column to conduct a gradient elution using chloroform and mixtures of methanol (up to 2%) and chloroform. The fractions corresponding to the title compound were collected and concentrated to dryness, giving the title compound as a powder in a yield of 69%.

reactant | 5'-O-acetyl-3'-O-benzyl-2'-deoxy-5-fluorouridine | 3.00 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OCC1=CC=CC=C1 | C18H19FN2O6
reactant | isophthaloyl chloride | 2.40 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 5 ml | CO | CH4O
reactant | triethylamine | 9.60 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5'-O-acetyl-3'-O-benzyl-3'-(3-carbomethoxybenzoyl)-2'-deoxy-5-fluorouridine | yield of 69% | C(C)(=O)OC[C@@H]1[C@](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)(OCC1=CC=CC=C1)C(C1=CC(=CC=C1)C(=O)OC)=O | C27H25FN2O9
